US07285563B2
N-Isoquinolin-6-yl-N′-[4-(trifluoromethyl)benzyl]urea
Prepared from 6-aminoisoquinoline (Description 51) and [4-(trifluoromethyl)benzyl]isocyanate (Description 58) according to the procedure of Description 61. m/z (ES+) 346 (M+H)+.

reactant | 6-aminoisoquinoline | NC=1C=C2C=CN=CC2=CC1 | C9H8N2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-Isoquinolin-6-yl-N′-[4-(trifluoromethyl)benzyl]urea | C1=NC=CC2=CC(=CC=C12)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F | C18H14F3N3O
